US04111936
N-Methyl 3-(2,6-dimethoxybenzoyl)propionamide was demethylated with aluminium chloride in chlorobenzene to give N-methyl 3-(2-hydroxy-6-methoxybenzoyl)propionamide, m.p. 125° which may also be prepared from a by-product, N-methyl 3-(2,6-dihydroxybenzoyl)propionamide, by selective methylation with methyl iodide and potassium carbonate in acetone. (iii) By subjecting N-methyl 3-(2-hydroxy-6-methoxybenzoyl)-propionamide to a series of reactions similar to those described in Examples 1(i-ii) and 2(i-v), the title compound may be prepared.

reactant | N-Methyl 3-(2,6-dimethoxybenzoyl)propionamide | CNC(CCC(C1=C(C=CC=C1OC)OC)=O)=O | C13H17NO4
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | N-methyl 3-(2-hydroxy-6-methoxybenzoyl)propionamide | CNC(CCC(C1=C(C=CC=C1OC)O)=O)=O | C12H15NO4
